US08372864B2
5.1.1: 2-(2-Bromophenyl)ethyl methanesulfonate
9.8 g of 2-(2-bromophenyl)ethanol and 4.7 cm3 of pyridine are dissolved under an inert atmosphere in 200 cm3 of dichloromethane at a temperature close to 20° C. The reaction mixture is cooled to a temperature close to 0° C. and 4.55 cm3 of methanesulfonyl chloride are introduced dropwise. The stirring is continued for 72 h, during which time the medium is allowed to gradually climb back up to a temperature close to 20° C. 100 cm3 of a saturated aqueous solution of sodium hydrogen carbonate are added to the reaction mixture. Stirring is continued for 10 min. The aqueous phase is extracted with dichloromethane. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered then concentrated using a rotary evaporator under reduced pressure (5 kPa). The 18 g of brown oil obtained are purified by flash chromatography over silica (column: 200 g; particle size: 15-40 μm; eluent: 100% dichloromethane to 90% dichloromethane/10% ethyl acetate gradient). After concentrating the fractions under reduced pressure, 12.9 g of 2-(2-bromophenyl)ethyl methanesulfonate are obtained in the form of a colorless oil.

reactant | 2-(2-bromophenyl)ethanol | 9.8 g | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | pyridine | 4.7 cm3 | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 4.55 cm3 | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
product | 2-(2-Bromophenyl)ethyl methanesulfonate | 18 g | CS(=O)(=O)OCCC1=C(C=CC=C1)Br | C9H11BrO3S
